US06413971B1
To 4-chloro-pyrido[3,4-d]pyrimidine (200 mg, 1.21 mmol) in isopropanol (3 mL) was added 6,7-dimethylindoline (211 mg, 1.44 mmol) and pyridine (190 mg, 2.41 mmol). The mixture was heated to reflux under an atmosphere of dry N2(g) for 6hours. Solvent was removed in vacuo and the residue was dissolved in CHCl3 and washed with saturated aqueous Na2CO3. The organic phase was dried over Na2SO4, concentrated in vacuo, and flash chromatographed on silica in 45% acetone/hexanes to afford 60 mg of 4-(6,7dimethyl-2,3-dihydro-indol-1-yl)-pyrido[3,4-d]pyrimidine (LC-MS: 278 (MH+). This material was dissolved in a minimum volume of 10% MeOH in CH2Cl2, and 1 mole equivalent of HCl in diethyl ether was added dropwise with stirring. The mixture was diluted with diethyl ether (4 volumes) and the precipitated HCl salt of the product was filtered and dried in vacuo (58 mg): MP: 248° C.; GEMS: 277 (M+); anal. RP-HPLC: 4.06 minutes.

reactant | 4-chloro-pyrido[3,4-d]pyrimidine | 1.21 mmol, 200 mg | ClC=1C2=C(N=CN1)C=NC=C2 | C7H4ClN3
reactant | 6,7-dimethylindoline | 1.44 mmol, 211 mg | CC1=CC=C2CCNC2=C1C | C10H13N
reactant | pyridine | 2.41 mmol, 190 mg | N1=CC=CC=C1 | C5H5N
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | 4-(6,7dimethyl-2,3-dihydro-indol-1-yl)-pyrido[3,4-d]pyrimidine | 60 mg | CC1=CC=C2CCN(C2=C1C)C=1C2=C(N=CN1)C=NC=C2 | C17H16N4
